*
* Diode Sim Model Produced by Altium Ltd
* Date:  21-Mar-2003
*
* Manufacturer: Philips
* Component Name: BZX84C5V1
*
* This macromodel models the effect of carrier recombination-generation
* and high-level injection on the diode.
*
*Note: This macromodel derived from data sheets and pspice models obtained from Philips Semiconductor.

.SUBCKT BZX84C5V1 10 30

*These components model forward-biased conditions
D1 10 20 DIDEAL
D2 10 20 DRECOMB
D3 20 30 DHIGH

*These components model reversed-biased conditions
D4 30 60 DPARASITIC
RZ 50 60 0.525
Vbrk 50 10 5.1

* Subcircuit models
*+  BV =  5.176
*+  IBV =  1.05E-01
.MODEL DIDEAL D
+(
+  IS =  2.6665E-18
+  N =  0.82284
+  TT =  4.3858E-08
+  CJO =  2.3229E-10
+  VJ =  0.79587
+  M =  0.35004
+)

.MODEL DHIGH D
+(
+  IS =  0.019046942
+  N =  0.82284
+  RS =  0.51617
+)

.MODEL DRECOMB D
+(
+  IS =  1.46044E-10
+  N =  2.046803348
+)

.MODEL DPARASITIC D
+(
+	N = 0.001
+	RS = 0.001
+	CJO = 0.001P
+)

.ENDS BZX84C5V1